US05177078
(a) 1-(2-Methoxyphenyl)-4-[2-phenyl-2-(1H-benzimidazol-1-yl)-1-oxoethyl]piperazine
A mixture of sodium hydride (0.47 g of 80% dispersion) in dry dimethyl formamide (10 ml) at 0°-5° C. was treated with benzimidazole (1.584 g) and the mixture stirred for 30 mins. A solution of 1-(2-methoxyphenyl)-4-(2-chloro-1-oxo-2-phenylethyl) piperazine (4.624 g) in dry DMF (20 ml) was added and the mixture was stirred at 90° C. for 5 hrs then at ambient temperature overnight. The suspension was filtered and the solvent evaporated under vacuum. The residue, in dichloromethane was washed well with water and dried over magnesium sulphate, to give 6 g of an oil. The crude product was purified by dry column flash chromatography to give the title compound (2.4 g).

reactant | sodium hydride | 0.47 g | [H-].[Na+]
reactant | benzimidazole | 1.584 g | N1=CNC2=C1C=CC=C2 | C7H6N2
reactant | 1-(2-methoxyphenyl)-4-(2-chloro-1-oxo-2-phenylethyl) piperazine | 4.624 g | COC1=C(C=CC=C1)N1CCN(CC1)C(C(C1=CC=CC=C1)Cl)=O | C19H21ClN2O2
solvent | dimethyl formamide | 10 ml | CN(C=O)C | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 1-(2-Methoxyphenyl)-4-[2-phenyl-2-(1H-benzimidazol-1-yl)-1-oxoethyl]piperazine | 6 g | COC1=C(C=CC=C1)N1CCN(CC1)C(C(N1C=NC2=C1C=CC=C2)C2=CC=CC=C2)=O | C26H26N4O2
